US07074796B2
1d, 4-[4-(2-Chlorophenyl)piperazin-1-yl]-1-(2,3-dihydro-1H-indol-1-yl)butan-1-one
from 1-(2-chlorophenyl)piperazine, hydrochloride and 4-chloro-1-(2,3-dihydro-1H-indol-1-yl)butan-1-one. Mp 119–121° C. 1H NMR (DMSO-d6): 1.75–1.85 (m, 2H); 2.35–2.50 (m, 4H); 2.55 (s, 4H); 3.95 (s, 4H); 3.15 (t, 2H); 4.10 (t, 2H); 6.95 (t, 1H); 7.05 (t, 1H); 7.10 (d, 1H); 7.15 (t, 1H); 7.20 (d, 1H); 7.25 (t, 1H); 7.40 (d, 1H); 8.10 (d, 1H). MS m/z: 384 (MH+), 265, 188.

reactant | 1-(2-chlorophenyl)piperazine, hydrochloride | Cl.ClC1=C(C=CC=C1)N1CCNCC1
reactant | 4-chloro-1-(2,3-dihydro-1H-indol-1-yl)butan-1-one | ClCCCC(=O)N1CCC2=CC=CC=C12 | C12H14ClNO
product | 4-[4-(2-Chlorophenyl)piperazin-1-yl]-1-(2,3-dihydro-1H-indol-1-yl)butan-1-one | ClC1=C(C=CC=C1)N1CCN(CC1)CCCC(=O)N1CCC2=CC=CC=C12 | C22H26ClN3O
